US04496739
To a suspension of dimethyl cis-1,3-dibenzyl-2-oxoimidazolidine-4,5-dicarboxylate (500 mg) in 0.1M phosphate buffer (pH 8.0, 50 ml) was added Pig Liver Esterase (manufactured by Sigma Lab., 1600 units, 10 mg). The mixture was stirred at room temperature for 30 hours. Chloroform (150 ml) was added to the mixture. Then, the mixture was adjusted to pH 2 with diluted sulfuric acid. The chloroform layer was separated from the aqueous layer, washed with water, dried over anhydrous magnesium sulfate and concentrated to give (4S,5R)-1,3-dibenzyl-5-methoxycarbonyl-2-oxoimidazolidine-4-carboxylic acid (435 mg). M.P., 141°-146° C. [α]D20 =+2.0° (c=1, CHCl3). [α]36520 =-21.6° (c=1, DMF).

reactant | dimethyl cis-1,3-dibenzyl-2-oxoimidazolidine-4,5-dicarboxylate | 500 mg | C(C1=CC=CC=C1)N1C(N([C@H]([C@H]1C(=O)OC)C(=O)OC)CC1=CC=CC=C1)=O | C21H22N2O5
reactant | Chloroform | 150 ml | C(Cl)(Cl)Cl | CHCl3
reactant | sulfuric acid | S(O)(O)(=O)=O | H2O4S
solvent | phosphate | 0.1M, 50 ml, pH 8.0 | P(=O)([O-])([O-])[O-]
product | (4S,5R)-1,3-dibenzyl-5-methoxycarbonyl-2-oxoimidazolidine-4-carboxylic acid | 435 mg | C(C1=CC=CC=C1)N1C(N([C@@H]([C@@H]1C(=O)OC)C(=O)O)CC1=CC=CC=C1)=O | C20H20N2O5
